US05945565
In a 5-liter three-necked round bottomed flask was placed 93 g of 3-amino-1-chloro-3-methyl-2-pentanone hydrochloride and 885 mL of water. To the resulting solution were added 138.6 g of sodium bicarbonate followed by 500 mL of ethyl acetate. To the resulting well-stirred mixture was added 123.5 g of 4-amino-3-chloro-5-methoxyiminomethylbenzoyl chloride dissolved in 1000 mL of ethyl acetate at room temperature over a period of 50 minutes. After the addition was complete the reaction mixture was stirred at room temperature for 1 hour. The two phases were separated and the organic layer was washed with water (2×500 mL), brine (1×500 mL), dried over anhydrous magnesium sulfate and the solvent eliminated in a rotary evaporator yielding the crude product as a brown oil. This oil was passed through a short Silica Gel column using methylene chloride as elution solvent. Evaporation of the solvent yielded 133.3 g of the expected 4-amino-3-chloro-5-methoxyiminomethyl-N-(3-chloro-1-ethyl-1-methyl-2-oxopropyl)benzamide as an off-white solid (mp 140-141° C.).

reactant | 3-amino-1-chloro-3-methyl-2-pentanone hydrochloride | 93 g | Cl.NC(C(CCl)=O)(CC)C
reactant | water | 885 mL | O | H2O
reactant | sodium bicarbonate | 138.6 g | C([O-])(O)=O.[Na+]
reactant | 4-amino-3-chloro-5-methoxyiminomethylbenzoyl chloride | 123.5 g | NC1=C(C=C(C(=O)Cl)C=C1C=NOC)Cl | C9H8Cl2N2O2
solvent | ethyl acetate | 1000 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-amino-3-chloro-5-methoxyiminomethyl-N-(3-chloro-1-ethyl-1-methyl-2-oxopropyl)benzamide | 133.3 g | NC1=C(C=C(C(=O)NC(C(CCl)=O)(C)CC)C=C1C=NOC)Cl | C15H19Cl2N3O3
